US05426119
c) Methyl 6-(2-(4-bromobenzenesulphonylamino)indan-5-yl)-6-(3-pyridyl)hex-5-enoate
3.4 g of methyl 6-(2-aminoindan-5-yl)-6-(3-pyridyl)hex-5-enoate is placed in 40 ml of chloroform together with 3.3 g of 4-bromobenzenesulphonic acid chloride and 1.8 g of triethylamine are added in batches at ambient temperature. After 30 minutes the solution is washed with water, dried and rotary evaporated. The yellow oil is then chromatographed over a silica gel column using cyclohexane/ethyl acetate (1:2).

reactant | methyl 6-(2-aminoindan-5-yl)-6-(3-pyridyl)hex-5-enoate | 3.4 g | NC1CC2=CC=C(C=C2C1)C(=CCCCC(=O)OC)C=1C=NC=CC1 | C21H24N2O2
reactant | 4-bromobenzenesulphonic acid chloride | 3.3 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | triethylamine | 1.8 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | Methyl 6-(2-(4-bromobenzenesulphonylamino)indan-5-yl)-6-(3-pyridyl)hex-5-enoate | BrC1=CC=C(C=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C(=CCCCC(=O)OC)C=1C=NC=CC1 | C27H27BrN2O4S
